US05863947
To a stirred solution of 4-bromo-3-methylbenzonitrile (4 g, 20 mmol) in tetrahydrofuran (100 ml), cooled to -100° C. under a nitrogen atmosphere, was added dropwise a solution of n-butyllithium in hexanes (1.6M, 12.8 ml). After addition, the pale red solution was stirred for 5 minutes at -100° C. and dry dimethylformamide (2.2 ml) then added dropwise. After 20 minutes, during which the temperature reached -60° C., the reaction mixture was poured onto a saturated solution of sodium chloride (100 ml). The organic phase was separated and combined with a diethyl ether (100 ml) wash of the aqueous phase, dried, filtered and evaporated. Crystallised from diethyl ether-hexane to give 4-cyano-2-methylbenzaldehyde as a white solid.

reactant | 4-bromo-3-methylbenzonitrile | 20 mmol, 4 g | BrC1=C(C=C(C#N)C=C1)C | C8H6BrN
reactant | n-butyllithium | C(CCC)[Li]
reactant | dimethylformamide | 2.2 ml | CN(C=O)C | C3H7NO
reactant | sodium chloride | 100 ml | [Cl-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-cyano-2-methylbenzaldehyde | C(#N)C1=CC(=C(C=O)C=C1)C | C9H7NO
